* cmp_tt_1.62_-20_-1
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /repo/v2/analog/adc/adc_blocks.spice
.temp -20
.options reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear

VDD vdd 0 1.62
VIP sp 0 0.809975585938
VIN sn 0 0.810024414063
RP sp ip 350
RN sn inn 350
XCP ip 0 adc_mim_bank COUNT=4096
XCN inn 0 adc_mim_bank COUNT=4096
VCLK clk 0 PULSE(0 1.62 200n 1n 1n 250n 625n)
XCMP ip inn op on clk vdd 0 adc_strongarm DSIZE=0
CLOADP op 0 5f
CLOADN on 0 5f

.control
set num_threads=1
set wr_singlescale
set wr_vecnames
set numdgt=12
tran 200p 800n
wrdata /repo/v2/analog/adc/results/cmp_tt_1.62_-20_-1.tsv v(ip) v(inn) v(op) v(on) v(clk) i(vdd)
quit
.endc
.end
